US05364875
Preparation of 2-[5-(N-(1H-benzoxazol-2-yl)-N-heptylamino)pentyl]thio-4,5-diphenyl-1H-imidazole
Method A, Part B. A solution of N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-heptanamine (prepared according to the procedure of U.S. patent application Ser. No. 07/416,606, Billheimer et al. ) (8.57 g, 19.7 mmol), the sulfone prepared in Method A, Part A above (3.52 g, 17.9 mmol) and potassium carbonate (3.00 g, 21.7 mmol) in dimethylformamide (30 mL) was heated to 90° C. for 18 hours. The mixture was allowed to cool and poured into ethyl acetate (200 mL). This solution was washed with water (4×200 mL), and the water washings were back-extracted in sequence with ethyl acetate (200 mL). The organic phases were combined, dried over anhydrous magnesium sulfate, filtered and evaporated. The residual oil was separated by flash chromatography (1:4 ethyl acetate-hexane), and the title product was obtained as a foam from evaporation from heptane solution, m.p. 58°-60° C. (7.00 g, 12.7 mmol, 71%). 1H NMR (CDCl3): 10.77 (1H, br s); 7.61-6.84 (14H, m); 3.52-3.40 (4H, m); 3.04 (2H, t, J=7.2 Hz); 1.79-1.58 (6H, m); 1.53-1.40 (2H, m); 1.37-1.21 (8H, m); 0.87 (3H, t, J=6.6 Hz). High-resolution mass spectrum: for C34H40N4OS, calc. 552.2923, obs. 552.2925, diff. 0.4 ppm.

reactant | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-heptanamine | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCNCCCCCCC | C27H37N3S
reactant | potassium carbonate | 21.7 mmol, 3.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-[5-(N-(1H-benzoxazol-2-yl)-N-heptylamino)pentyl]thio-4,5-diphenyl-1H-imidazole | O1C(=NC2=C1C=CC=C2)N(CCCCCCC)CCCCCSC=2NC(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2 | C34H40N4OS
